US07960395B2
h) 5-{[(1S)-1-(3-Fluoropyridin-2-yl)ethyl]thio}-7-{[(1R)-1-(hydroxymethyl)-3-methylbutyl]amino}[1,3]thiazolo[4,5-d]pyrimidin-2(3H)-one
The title compound was prepared from (2R)-2-[(5-{[(1S)-1-(3-fluoropyridin-2-yl)ethyl]thio}-2-methoxy[1,3]thiazolo[4,5-d]pyrimidin-7-yl)amino]-4-methylpentan-1-ol using General method D, except that the reaction mixture was heated to 50° C. for 1.5 h. After complete reaction the reaction mixture was diluted with brine and extracted with DCM (three times). The combined organic extracts were dried over magnesium sulphate and concentrated in vacuo. The product was purified by flash column chromatography (eluent DCM: methanol gradient) followed by preparative HPLC to yield 20 mg of the title compound.

reactant | (2R)-2-[(5-{[(1S)-1-(3-fluoropyridin-2-yl)ethyl]thio}-2-methoxy[1,3]thiazolo[4,5-d]pyrimidin-7-yl)amino]-4-methylpentan-1-ol | FC=1C(=NC=CC1)[C@H](C)SC=1N=C(C2=C(N1)N=C(S2)OC)N[C@@H](CO)CC(C)C | C19H24FN5O2S2
solvent | brine | [Cl-].[Na+].O
product | 5-{[(1S)-1-(3-Fluoropyridin-2-yl)ethyl]thio}-7-{[(1R)-1-(hydroxymethyl)-3-methylbutyl]amino}[1,3]thiazolo[4,5-d]pyrimidin-2(3H)-one | 20 mg | FC=1C(=NC=CC1)[C@H](C)SC=1N=C(C2=C(N1)NC(S2)=O)N[C@H](CC(C)C)CO | C18H22FN5O2S2
